US08541592B2
Methyl 2-(2-methoxypyridin-4-yl)acetate
To the solution of lithium diisopropylamide (Aldrich, 2.0M, 122 mL, 244 mmol), THF (90 mL) and hexamethylphosphoric triamide (Aldrich, 16 mL, 89 mmol) at −78° C. under nitrogen was added, in 10 min, a solution of 2-methoxy-4-methylpyridine (10.0 g, 81 mmol) in THF (30 mL). After 30 min, a solution of dimethyl carbonate (Aldrich, 7.5 mL, 90 mmol) in THF (30 mL) was added over 15 min. The stirring was continued for 2 h at −78° C. before the reaction was quenched with MeOH (30 mL). The mixture was filtered through Celite and the cake was washed with EtOAc. The filtrate was concentrated in vacuo, and the crude product was purified by silica gel chromatography. MS: 182 (M+1).

reactant | lithium diisopropylamide | 244 mmol, 2.0M, 122 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | hexamethylphosphoric triamide | 89 mmol, 16 mL | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 2-methoxy-4-methylpyridine | 81 mmol, 10.0 g | COC1=NC=CC(=C1)C | C7H9NO
reactant | dimethyl carbonate | 90 mmol, 7.5 mL | C(OC)(OC)=O | C3H6O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | Methyl 2-(2-methoxypyridin-4-yl)acetate | COC1=NC=CC(=C1)CC(=O)OC | C9H11NO3
